US04673671
Proceeding as in example 63, but replacing for 3-benzyloxy-4-hydroxybenzaldehyde an equivalent quantity of 2-chloro-3-benzyloxy-4-hydroxybenzaldehyde obtained as described in example 85, 2-chloro-3-benzyloxy-4-methoxymethoxybenzaldehyde was obtained, m.p. 66°-67° C. (from petroleum ether, b.p. 30°-70° C.).

reactant | 3-benzyloxy-4-hydroxybenzaldehyde | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1O | C14H12O3
reactant | 2-chloro-3-benzyloxy-4-hydroxybenzaldehyde | ClC1=C(C=O)C=CC(=C1OCC1=CC=CC=C1)O | C14H11ClO3
product | 2-chloro-3-benzyloxy-4-methoxymethoxybenzaldehyde | ClC1=C(C=O)C=CC(=C1OCC1=CC=CC=C1)OCOC | C16H15ClO4
